US03947460
To a Grignard prepared from 27.3g (0.16 mole) of 3-bromotoluene and 3.7 g. (0.16 mole) of magnesium turnings in 100 ml. of dry diethylether, there is added dropwise over a period of about 10 minutes 12.2 g. (0.11 mole) of N-methylsuccinimide in 100 ml. of dry benzene. The resulting mixture is stirred and refluxed for about 4 hours and then allowed to stand overnight at room temperature. Stirring is resumed and 40 ml. of 50% sulfuric acid is added dropwise at such a rate to maintain a gentle reflux. After an additional 0.5 hours, the water layer is separated and washed twice with 50 ml. of benzene. The organic layers are combined and washed with 50 ml. of sodium carbonate and then twice more with 50 ml. of water. The resulting layer is dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting residue is crystallized from methylene chloride/hexane to give 5-hydroxy-1-methyl-5-(m-tolyl) pyrrolidone; m.p. 128°-130°C.

reactant | 3-bromotoluene | 0.16 mole, 27.3g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | magnesium | 0.16 mole | [Mg] | Mg
reactant | N-methylsuccinimide | 0.11 mole | CN1C(CCC1=O)=O | C5H7NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | diethylether | C(C)OCC | C4H10O
product | 5-hydroxy-1-methyl-5-(m-tolyl) pyrrolidone | OC1(CCC(N1C)=O)C=1C=C(C=CC1)C | C12H15NO2
